US08048899B2
To a solution of 4.47 g (16.74 mmol) of 2-methyl-2-(piperidin-4-ylsulfanyl)-propionic acid ethyl ester hydrochloride salt in anhydrous THF (30 mL) are added 13.45 mL (77.36 mmol) of N,N-diisoproylethylamine, followed by 2.98 mL (38.58 mmol) of methanesulfonyl chloride. The reaction mixture is heated for 2 d to 60° C. The mixture is concentrated under reduced pressure and the residue is partitioned between saturated aqueous NaHCO3 solution (75 mL) and ethyl acetate (75 mL). The basic aqueous layer is extracted with ethyl acetate (2×50 mL). The combined organic layer is separated and washed with brine (50 mL), dried over MgSO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by column chromatography (silica, eluent: heptanes, 30% ethyl acetate) to give 2.17 g of 2-(1-methanesulfonyl-piperidin-4-ylsulfanyl)-2-methyl-propionic acid ethyl ester as a brown solid. Yield: 42%, ES-MS: m/z 310 [M+H]; 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.22 (3H, t, J=7.11 Hz), 1.47 (6H, s), 1.59-1.69 (2H, m), 1.92-2.00 (2H, m), 2.70 (3H, s), 2.90-2.99 (3H, m), 3.39-3.47 (2H, m), 4.10 (2H, q, J=7.12 Hz)

reactant | 2-methyl-2-(piperidin-4-ylsulfanyl)-propionic acid ethyl ester hydrochloride salt | 16.74 mmol, 4.47 g | Cl.C(C)OC(C(C)(SC1CCNCC1)C)=O
reactant | N,N-diisoproylethylamine | 77.36 mmol, 13.45 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 38.58 mmol, 2.98 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(1-methanesulfonyl-piperidin-4-ylsulfanyl)-2-methyl-propionic acid ethyl ester | 2.17 g, Yield: 42% | C(C)OC(C(C)(C)SC1CCN(CC1)S(=O)(=O)C)=O | C12H23NO4S2
